US04629737
N-[2-(4-Isopropylthiophenyl)-1-methylethyl]-2-methoxy-2-(3-chlorophenyl)ethanamine hydrochloride
1-(4-Isopropylthiophenyl)propan-2-one (4.16 g) and 2-methoxy-2-(3-chlorophenyl)ethanamine (3.71 g) in dry benzene (100 ml) was boiled under reflux for two hours in an apparatus incorporating a water trap. The solution was cooled and the solvent removed under reduced pressure. The residue was dissolved in ethanol (80 ml), cooled to less than 10° C. and treated portionwise with sodium borohydride (3.0 g) over 30 minutes. The mixture was stirred for one hour and the solvent removed under reduced pressure. The residue was dissolved in dichloromethane, washed with water, dried over magnesium sulphate, filtered and evaporated. Chromatography of the residue on silica gel in 2-4% methanol-dichloromethane gave an oil which was converted to its hydrochloride salt by addition of ethereal hydrogen chloride. Crystallisation from methanol-ethyl acetate-hexane gave the title compound, m.p. 133°-9° C., as a 70:30 mixture of diastereoisomers.

reactant | 1-(4-Isopropylthiophenyl)propan-2-one | 4.16 g | C(C)(C)SC1=CC=C(C=C1)CC(C)=O | C12H16OS
reactant | 2-methoxy-2-(3-chlorophenyl)ethanamine | 3.71 g | COC(CN)C1=CC(=CC=C1)Cl | C9H12ClNO
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-[2-(4-Isopropylthiophenyl)-1-methylethyl]-2-methoxy-2-(3-chlorophenyl)ethanamine hydrochloride | Cl.C(C)(C)SC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)OC | InChI=1S/C21H28ClNOS.ClH/c1-15(2)25-20-10-8-17(9-11-20)12-16(3)23-14-21(24-4)18-6-5-7-19(22)13-18;/h5-11,13,15-16,21,23H,12,14H2,1-4H3;1H
